US07384934B2
Combine 2-cyclopentyl-4,9-dihydro-3-thia-1,4,9-triazabenzo[f]azulene-10-thione (0.529 g, 1.75 mmol) and methyl triflate (0.24 mL, 2.11 mmol) in dichloromethane (3 mL) at 0° C. Stir the mixture at 0° C. for 15 minutes and warm to room temperature overnight. Evaporate the mixture, combine the residue with (S)-2-(2-methoxyethyl)piperazine (0.253 g, 1.75 mmol) and pyridine (3 mL) and heat at reflux overnight. Evaporate the mixture, then dilute with methanol and apply to a 10 g SCX column. Wash with methanol, then elute with a step gradient starting with dichloromethane going to 10% 2N ammonia-methanol in dichloromethane followed by 100% 2N ammonia-methanol to obtain the desired coupled product. Purify by flash chromatography, eluting with a step gradient starting with dichloromethane going to 6% 2N ammonia-methanol in dichloromethane, to give (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-cyclopentyl 4H-3-thia-1,4,9-triazabenzo[f]azulene (0.378 g, 0.918 mmol, 52%) as a yellow amorphous solid: mass spectrum (APCI): m/z=412.2 (M+1).

reactant | 2-cyclopentyl-4,9-dihydro-3-thia-1,4,9-triazabenzo[f]azulene-10-thione | 1.75 mmol, 0.529 g | C1(CCCC1)C1=NC=2C(NC3=C(NC2S1)C=CC=C3)=S | C15H15N3S2
reactant | methyl triflate | 2.11 mmol, 0.24 mL | O(S(=O)(=O)C(F)(F)F)C | C2H3F3O3S
reactant | (S)-2-(2-methoxyethyl)piperazine | 1.75 mmol, 0.253 g | COCC[C@@H]1NCCNC1 | C7H16N2O
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-cyclopentyl 4H-3-thia-1,4,9-triazabenzo[f]azulene | 0.918 mmol, 0.378 g, 52% | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C1CCCC1)C=CC=C2 | C22H29N5OS
